US07727988B2
5-(trifluoromethyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E14)
To a solution of 4-(5-trifluoromethyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-butyraldehyde (Prep24, 22 mg, 0.09 mmol) in dichloroethane (1 mL), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 204 mg, 0.09 mmol), AcOH (7.9 mg, 0.13 mmol) and NaBH(AcO)3 (22 mg, 0.18) were added and the mixture was stirred at room temperature overnight. Ethyl acetate was added and the solution was washed with aqueous saturated NaHCO3. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (95-5-1) to give the title compound (31 mg, 76% yield) as a free base.

reactant | 4-(5-trifluoromethyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl)-butyraldehyde | 0.09 mmol, 22 mg | FC(C=1C(NC(N(C1)CCCC=O)=O)=O)(F)F | C9H9F3N2O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.09 mmol, 204 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.13 mmol, 7.9 mg | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 22 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(trifluoromethyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 31 mg, 76% yield | Cl.FC(C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)(F)F | InChI=1S/C21H21F6N3O2.ClH/c22-20(23,24)14-5-3-13(4-6-14)19-9-15(19)10-29(12-19)7-1-2-8-30-11-16(21(25,26)27)17(31)28-18(30)32;/h3-6,11,15H,1-2,7-10,12H2,(H,28,31,32);1H/t15-,19+;/m0./s1
